US08202865B2
Step 1: Ethyl 4-(4-cyano-2-fluorophenoxy)butanoate
3-fluoro-4-hydroxybenzonitrile (ABCR F03756F.AB, 2 g; 14.59 mmol; 1 eq.) was dissolved in DMF (40 mL). Then ethyl 4-bromobutyrate (4.27 g; 21.88 mmol; 1.50 eq.) and potassium carbonate (3.02 g; 21.88 mmol; 1.50 eq.) were added to the reaction mixture and it was heated to 80° C. for 2 hours. The reaction mixture was cooled to RT and diluted with EtOAc. The organic layer was washed with water (3×), brine, dried over MgSO4 and concentrated affording the title compound as a yellow solid (3.56 g, 97%). 1H NMR (DMSO-d6, 300 MHz) δ 7.86-7.83 (d, J=11.43 Hz, 1H), 7.68-7.66 (d, J=8.73 Hz, 1H), 7.37-7.32 (m, 1H), 4.20-4.03 (m, 4H), 2.46-2.44 (m, 2H), 2.03-1.99 (m, 2H), 1.19-1.15 (t, J=6.62 Hz, 3H). HPLC (Method A) Rt 4.47 min (Purity: 98.8%).

reactant | 3-fluoro-4-hydroxybenzonitrile | 14.59 mmol, 2 g, 1 eq. | FC=1C=C(C#N)C=CC1O | C7H4FNO
reactant | ethyl 4-bromobutyrate | 21.88 mmol, 4.27 g, 1.50 eq. | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 21.88 mmol, 3.02 g, 1.50 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Ethyl 4-(4-cyano-2-fluorophenoxy)butanoate | 3.56 g, 97% | C(#N)C1=CC(=C(OCCCC(=O)OCC)C=C1)F | C13H14FNO3
